US08623859B2
5-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-(4-{[3-(dimethylamino)pyrrolidin-1-yl]methyl}benzyl)-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure BH using 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid (40 mg, 0.105 mmol), EDCI (29 mg, 0.15 mmol), HOBt (22 mg, 0.16 mmol), DIPEA (0.04 mL, 0.22 mmol), N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-amine trihydrochloride (34 mg, 0.13 mmol) and DCM (10 mL).

reactant | 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid | 0.105 mmol, 40 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)O | C18H21NO6S
reactant | EDCI | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.16 mmol, 22 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.22 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethyl-1-{4-[(methylamino)methyl]benzyl}pyrrolidin-3-amine trihydrochloride | 0.13 mmol, 34 mg | Cl.Cl.Cl.CN(C1CN(CC1)CC1=CC=C(C=C1)CNC)C
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-(4-{[3-(dimethylamino)pyrrolidin-1-yl]methyl}benzyl)-N-methylfuran-3-carboxamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(C=C1)CN1CC(CC1)N(C)C | C33H44N4O5S
